US03937801
trans-2-(4-Cyclohexyl-3-hydroxy-1-butenyl)-5-[(tetrahydropyran-2-yl)oxy]cyclopentaneheptanoic acid methyl ester acetate (44 g), described in Example 8, is dissolved in acetic acid (426 ml), water (212 ml) and tetrahydrofuran (35.7 ml). The mixture is stirred at 60°C (bath temperature) for 3 hr. The solvent is removed under reduced pressure. The residue is taken up in ether. The ether solution is washed with water, dried and evaporated to yield trans-2-(4-cyclohexyl-3-acetoxy-1-butenyl)-5-hydroxycyclopentaneheptanoic acid methyl ester νmaxCHCl3 3,451, 1,730, 1,240 cm-1.

reactant | trans-2-(4-Cyclohexyl-3-hydroxy-1-butenyl)-5-[(tetrahydropyran-2-yl)oxy]cyclopentaneheptanoic acid methyl ester acetate | 44 g | C(C)(=O)O.COC(CCCCCCC1C(CCC1OC1OCCCC1)\C=C\C(CC1CCCCC1)O)=O
reactant | water | 212 ml | O | H2O
reactant | tetrahydrofuran | 35.7 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 426 ml | C(C)(=O)O | C2H4O2
product | trans-2-(4-cyclohexyl-3-acetoxy-1-butenyl)-5-hydroxycyclopentaneheptanoic acid methyl ester | COC(CCCCCCC1C(CCC1O)\C=C\C(CC1CCCCC1)OC(C)=O)=O | C25H42O5
